US07994176B2
3′,5′-Dichloro-4′-(3-cyclohexyl-2-oxo-pyrrolidin-1-ylmethyl)-biphenyl-4-carboxylic acid
Treat a solution of 3′,5′-dichloro-4′-(3-cyclohexyl-2-oxo-pyrrolidin-1-ylmethyl)-biphenyl-4-carboxylic acid methyl ester (0.6 g) in THF (15 mL) with 5N NaOH (5 mL) and stir at 50° C. for 12 hours. Quench the reaction with HCl (1N, 25 mL). Partition the mixture between ethyl acetate and water. Dry the organic layer (Na2SO4) and remove the solvent in vacuo to afford 0.56 g (96%) of the title compound. MS (m/z): 446 (M+).

reactant | 3′,5′-dichloro-4′-(3-cyclohexyl-2-oxo-pyrrolidin-1-ylmethyl)-biphenyl-4-carboxylic acid methyl ester | 0.6 g | COC(=O)C1=CC=C(C=C1)C1=CC(=C(C(=C1)Cl)CN1C(C(CC1)C1CCCCC1)=O)Cl | C25H27Cl2NO3
reactant | NaOH | 5N, 5 mL | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3′,5′-Dichloro-4′-(3-cyclohexyl-2-oxo-pyrrolidin-1-ylmethyl)-biphenyl-4-carboxylic acid | 0.56 g, 96% | ClC=1C=C(C=C(C1CN1C(C(CC1)C1CCCCC1)=O)Cl)C1=CC=C(C=C1)C(=O)O | C24H25Cl2NO3
